US08710223B2
Synthesis of 2-isopropyl-5-nitroaniline
70% HNO3 (5.1 mL, 84.76 mmol, 1.2 equiv) was added dropwise to a mixture of 2-isopropylaniline (10 mL, 9.55 g, 70.63 mmol, 1 equiv) in 70 mL of conc. sulfuric acid at 0° C. The reaction mixture was stirred at this temperature for 30 minutes and then poured onto ice. The aqueous mixture was extracted with EtOAc (2×150 mL). The organic layers were combined and washed with sat'd NaHCO3. After evaporation, the residue was purified by column chromatography on silica gel using EtOAc/hexanes (3/7) to give 2 g of product (16%) as a dark red oil.

reactant | HNO3 | 84.76 mmol, 5.1 mL, 1.2 equiv | [N+](=O)(O)[O-] | HNO3
reactant | 2-isopropylaniline | 70.63 mmol, 10 mL, 9.55 g, 1 equiv | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
solvent | sulfuric acid | 70 mL | S(O)(O)(=O)=O | H2O4S
product | 2-isopropyl-5-nitroaniline | 2 g, 16% | C(C)(C)C1=C(N)C=C(C=C1)[N+](=O)[O-] | C9H12N2O2
